US08071766B2
To a solution of 3-(tert-butyldimethylsilyloxy)dihydrofuran-2(3H)-one (11 g, 49 mmol) in methanol was added 7 N ammonia in methanol (20 mL, 140 mmol). The reaction was stirred in a sealed tube for 2 days. The solvent was removed in vacuo to yield (S)-2-(tert-butyldimethylsilyloxy)-4-hydroxybutanamide (4.85 g, 20.8 mmol) as a white solid. [M+H] calc'd for C10H23NO3Si, 234. found, 234.

reactant | 3-(tert-butyldimethylsilyloxy)dihydrofuran-2(3H)-one | 49 mmol, 11 g | [Si](C)(C)(C(C)(C)C)OC1C(OCC1)=O | C10H20O3Si
reactant | ammonia | 7 N | N | H3N
solvent | methanol | CO | CH4O
solvent | methanol | 140 mmol, 20 mL | CO | CH4O
product | (S)-2-(tert-butyldimethylsilyloxy)-4-hydroxybutanamide | 20.8 mmol, 4.85 g | [Si](C)(C)(C(C)(C)C)O[C@H](C(=O)N)CCO | C10H23NO3Si
